US04702764
To a solution of 3-mercapto-1,2,4-triazole (7.1 g) and sodium methoxide (3.8 g) in methanol (100 ml), there was added cyclopropylmethyl bromide (9.5 g), and the resultant mixture was allowed to stand at room temperature for 10 hours. After removal of the solvent, the residue was extracted with chloroform. Evaporation of the chloroform extract gave 10.8 g of 3-cyclopropylmethylthio-1,2,4-triazole. Yield, 99%. M.P., 69°-70° C.

reactant | 3-mercapto-1,2,4-triazole | 7.1 g | SC1=NNC=N1 | C2H3N3S
reactant | sodium methoxide | 3.8 g | C[O-].[Na+]
reactant | cyclopropylmethyl bromide | 9.5 g | C1(CC1)CBr | C4H7Br
solvent | methanol | 100 ml | CO | CH4O
product | 3-cyclopropylmethylthio-1,2,4-triazole | 10.8 g | C1(CC1)CSC1=NNC=N1 | C6H9N3S
